US07638629B2
Step 2: Dimethyl(2-oxoethyl){2-oxo-2-[4-(trifluoromethyl)phenyl]ethyl}malonate
Dimethyl allyl{2-oxo-2-[4-(trifluoromethyl)phenyl]ethyl}malonate (20 g, 0.055 mol) was dissolved in DCM (180 ml) and the solution was cooled to −78° C. Oxygen, containing ozone, was bubbled through the solution until a blue coloration persisted. The mixture was then purged with nitrogen for 10 min in then dimethyl sulfide (20 ml, 0.275 mol) was added and the mixture was stirred overnight at room temperature. Water (500 ml) was added and the mixture was extracted with DCM. The organic layer was separated and was washed with brine, then dried (MgSO4) and concentrated in vacuo to give the product as an oil. This was purified by chromatography on silica using hexane/EtOAc (9:1 to 1:1) as eluant to afford the product (4 g). 1H NMR (500 MHz, CDCl3): δ 3.46 (2H, s), 3.77 (7H, s), 3.93 (2H, s), 7.74 (2H, d, J 8.2), 8.06 (2H, d, J 8.1), 9.73 (1H, s).

reactant | Dimethyl allyl{2-oxo-2-[4-(trifluoromethyl)phenyl]ethyl}malonate | 0.055 mol, 20 g | C(C=C)C(C(=O)OC)(C(=O)OC)CC(C1=CC=C(C=C1)C(F)(F)F)=O | C17H17F3O5
reactant | Oxygen | O=O | O2
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 0.275 mol, 20 ml | CSC | C2H6S
solvent | DCM | 180 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 500 ml | O | H2O
product | Dimethyl(2-oxoethyl){2-oxo-2-[4-(trifluoromethyl)phenyl]ethyl}malonate | COC(C(C(=O)OC)(CC(C1=CC=C(C=C1)C(F)(F)F)=O)CC=O)=O | C16H15F3O6
